US04760074
A mixture of 1.7 parts of 2-chloropyrimidine, 9.66 parts of 2-[[1-(2-aminoethyl)-4-piperidinyl]amino]-1-[(4-fluorophenyl)methyl]-1H-benzimidazol-5-ol trihydrobromide, 5 parts of sodium hydrogen carbonate and 80 parts of ethanol was stirred and refluxed overnight. The reaction mixture was evaporated and the residue was taken up in trichloromethane. The organic phase was washed with water, dried, filtered and evaporated. The residue was crystallized from a mixture of acetonitrile and methanol, yielding 5.2 parts (83%) of 1-[(4-fluorophenyl)methyl]-2-[[1-[2-(2-pyrimidinylamino)ethyl]-4-piperidinyl]amino]-1e,uns/H/ -benzimidazol-5-ol; mp. 194.4° C. (compound 64).

reactant | 2-chloropyrimidine | ClC1=NC=CC=N1 | C4H3ClN2
reactant | 2-[[1-(2-aminoethyl)-4-piperidinyl]amino]-1-[(4-fluorophenyl)methyl]-1H-benzimidazol-5-ol trihydrobromide | Br.Br.Br.NCCN1CCC(CC1)NC1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC(=C2)O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | benzimidazol-5-ol | N1=CNC2=C1C=CC(=C2)O | C7H6N2O
